US07943609B2
A 200-mL, round-bottomed flask was charged with (11S)-11-methyl-3-[2-(methylsulfonyl)ethyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline (0.45 g, 1.31 mmol) and CH2Cl2 (75 mL). The mixture was stirred at ambient temperature and MCPBA (0.45 g, 50% purity) was then added slowly in portions. The reaction was stirred at ambient temperature for 2 hours. Concentrated aqueous NH4OH solution (25 mL) was then slowly added to the reaction mixture followed by careful addition of p-toluenesulfonyl chloride (0.27 g, 1.44 mmol). The reaction was stirred rapidly at ambient temperature overnight. The reaction was then treated with H2O (100 mL) and vigorous stirring was maintained for 2 hours. The layers were then separated and the aqueous layer was extracted with CH2Cl2 (3×50 mL). The combined organic layers were concentrated under reduced pressure. Chromatography (SiO2, 0-15% CMA/CHCl3) gave a white solid that was crystallized from acetonitrile to give 0.12 g of (11S)-11-methyl-3-[2-(methylsulfonyl)ethyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine as a white, crystalline solid, mp 205-206° C.

reactant | (11S)-11-methyl-3-[2-(methylsulfonyl)ethyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 1.31 mmol, 0.45 g | C[C@H]1COCC=2N1C1=C(C=NC3=CC(=CC=C13)CCS(=O)(=O)C)N2 | C17H19N3O3S
reactant | MCPBA | 0.45 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NH4OH | 25 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 1.44 mmol, 0.27 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | H2O | 100 mL | O | H2O
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | (11S)-11-methyl-3-[2-(methylsulfonyl)ethyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 0.12 g | C[C@H]1COCC=2N1C1=C(C(=NC3=CC(=CC=C13)CCS(=O)(=O)C)N)N2 | C17H20N4O3S
